US04241052
3.7 g of 1-(2-chloroethyl)-3-(p-methoxybenzyl)-3-(L-arabinopyranosyl)urea and 5.0 g of nitrogen tetroxide gas are treated in the same manner as described in Example 31-(2). 2.5 g of 1-(2-chloroethyl)-1-nitroso-3-(p-methoxybenzyl)-3-(L-arabinopyranosyl)urea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-(p-methoxybenzyl)-3-(L-arabinopyranosyl)urea | 3.7 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1=CC=C(C=C1)OC | C16H23ClN2O6
reactant | nitrogen tetroxide | 5.0 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 1-(2-chloroethyl)-1-nitroso-3-(p-methoxybenzyl)-3-(L-arabinopyranosyl)urea | 2.5 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1=CC=C(C=C1)OC)N=O | C16H22ClN3O7
